US04797399
To a solution of 6-chloro-2-oxo-1-[(1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine (1.40 g) in chloroform (15 ml) was added isoamyl nitrite (3.0 ml) and the mixture was stirred for 11 hours at room temperature. Precipitated crystals were collected by filtration, washed with chloroform and dried to give colorless crystals of 6-chloro-2-oxo-1-[(4-nitroso-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine (1.33 g).

reactant | 6-chloro-2-oxo-1-[(1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine | 1.40 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCNCC2)=O | C12H13ClN4O2S
reactant | isoamyl nitrite | 3.0 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-2-oxo-1-[(4-nitroso-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine | 1.33 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCN(CC2)N=O)=O | C12H12ClN5O3S
